US07550474B2
h. 2-(2-Azido-1,1-difluoro-ethyl)-5-methyl-pyridine
A solution of 2-(1,1-Difluoro-2-iodo-ethyl)-5-methyl-pyridine (3.8 g, 13.43 mmol), as prepared in the previous step, was dissolved into DMSO (6 mL), treated with NaN3 (1.0 g, 16.12 mmol, 1.2×) and heated to 90° C. After 2 days, the reaction was partitioned between EtOAc (125 mL) and H2O (2×50 mL). The organic phase was dried over Na2SO4 and concentrated to afford the product as a clear oil (2.46 g, 12.42 mmol, 93% crude yield). 1H NMR (300 Hz, CDCl3) δ 8.49 (s, 1H), 7.63 (m, 2H), 4.01 (t, J=13.2 Hz), 2.41 (s, 3H); LC/MS (m/z) [M+1−N2]+ 171.1 (calculated for C8H9F2N2, 171.2).

reactant | 2-(1,1-Difluoro-2-iodo-ethyl)-5-methyl-pyridine | 13.43 mmol, 3.8 g | FC(CI)(F)C1=NC=C(C=C1)C | C8H8F2IN
reactant | NaN3 | 16.12 mmol, 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 2-(2-Azido-1,1-difluoro-ethyl)-5-methyl-pyridine | 12.42 mmol, 2.46 g | N(=[N+]=[N-])CC(F)(F)C1=NC=C(C=C1)C | C8H8F2N4
